US07465726B2
4-[4-(Naphthalen-1-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide
A suspension containing naphthalen-1-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine (120 mg, 0.35 mmol), tert-butyl isocyanate (35 mg, 0.35 mmol) and N,N-diisopropylethylamine (122 μL, 0.70 mmol) in anhydrous N,N-dimethylformamide (2 mL) was stirred overnight at rt. The reaction mixture was poured into saturated NaHCO3 solution (50 mL) and extracted with EtOAc (3×50 ml). The combined organics were washed with brine (3×50 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (2 to 4% MeOH in DCM) gave the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ=8.13 (1H, s), 8.08-8.02 (2H, m), 7.89 (1H, d, J=8.1 Hz), 7.74-7.71 (1H, m), 7.63-7.54 (3H, m), 6.55 (1H, d, J=8.3 Hz), 6.43 (1H, s), 5.83 (1H, s), 4.04 (2H, s), 3.55 (2H, t, J=5.6 Hz), 2.42 (2H, s), 1.34 (9H, s); MS (ES+): m/z 441.08 [MH+], HPLC: tR=2.59 min (MicromassZQ, polar—5 min).

reactant | naphthalen-1-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | 0.35 mmol, 120 mg | C1(=CC=CC2=CC=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | C21H19N5
reactant | tert-butyl isocyanate | 0.35 mmol, 35 mg | C(C)(C)(C)N=C=O | C5H9NO
reactant | N,N-diisopropylethylamine | 0.70 mmol, 122 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[4-(Naphthalen-1-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC=CC3=CC=CC=C23)N1 | C26H28N6O
